US04999356
To a stirred mixture, under nitrogen, of 49.6 g of 2,4-difluorobenzoic acid, 2-phenylhydrazide, 64.3 g of triphenylphosphine, and 500 ml of anhydrous acetonitrile was added 19.3 ml of carbon tetrachloride. The reaction mixture was stirred at ambient temperature for about 16 hours, concentrated, and extracted with diethyl ether (3×). The diethyl ether extract was filtered and concentrated to a residue, which was flash chromatographed on silica gel, eluting first with ethyl acetate-hexane and, in a subsequent run, with ethyl acetate alone. Concentration of the appropriate fractions yielded 47.5 g (89%) of α-chloro-2,4-difluorobenzaldehyde, phenylhydrazone.

reactant | 2,4-difluorobenzoic acid, 2-phenylhydrazide | 49.6 g | C1(=CC=CC=C1)NNC(C1=C(C=C(C=C1)F)F)=O | C13H10F2N2O
reactant | triphenylphosphine | 64.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
reactant | carbon tetrachloride | 19.3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | α-chloro-2,4-difluorobenzaldehyde | 47.5 g, 89% | ClC(C1=C(C=C(C=C1)F)F)=O | C7H3ClF2O
